US06897231B2
SYNTHESIS OF 1-{5-[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)](4H-1,2,4-TRIAZOL-3-YL)]-4-METHOXYBENZENE
The procedure described in example 123 using ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride (400 mg, 1.25 mmol), triethylamine (0.5 mL, 3.7 mmol) and 4-methoxy benzhydrazide (415 mg, 2.5 mmol) was used to prepare the title compound (175 mg, 37% yield). 1H NMR (DMSO-d6) δ 13.5 (s, 1H), 8.71 (s, 1H), 8.16 (d, 1H), 8.0-8.1 (m, 4H), 7.75 (d, 1H), 7.45 (t, 2H), 7.1 (d, 2H), 3.88 (s, 3H), ES-MS (m/z) 386 [M+1]+.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazol-5-yl)]methanimine hydrochloride | 1.25 mmol, 400 mg | Cl.C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F
reactant | triethylamine | 3.7 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy benzhydrazide | 2.5 mmol, 415 mg | COC1=CC=C(C(=O)NN)C=C1 | C8H10N2O2
product | 1-{5-[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)](4H-1,2,4-TRIAZOL-3-YL)]-4-METHOXYBENZENE | 175 mg, 37% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)C1=CC=C(C=C1)OC | C22H16FN5O
